US05668291
2,2'-Dithiobis[N-[3,5-bis(trifluoromethyl)phenyl]benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane and 3,5 -bis (trifluoromethyl) aniline (2.66 g, 11.6 mmol) in 21 mL of pyridine. The crude product was recrystallized from ethyl acetate-hexanes (1:9) to yield 0.34 g of the title compound, mp 213°-214° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 3,5 -bis (trifluoromethyl) aniline | 11.6 mmol, 2.66 g | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 21 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-[3,5-bis(trifluoromethyl)phenyl]benzamide] | 0.34 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=CC=C1)=O)(F)F | C30H16F12N2O2S2
